US09371448B2
was prepared according to general procedure (A), in which 25 μl n-butylamine (0.25 mmol, 1 equiv), 28 μl formalin (0.37 mmol, 1.5 equiv), 82 μl 3.05 M hydrochloric acid in ethanol (0.25 mmol, 1 equiv) and 49 mg pyridin-2-yl(p-tolyl)methanone (0.25 mmol, 1 equiv) were combined in 0.50 mL acetonitrile and maintained at room temperature for 12 hours. The crude material was then dissolved in 1.0 mL methanol and then 94 mg sodium tetraphenylborate (0.27 mmol, 1.1 equiv) in 1.0 mL methanol was added drop wise while stirring vigorously. The heterogeneous mixture was stirred vigorously for 3 hours at room temperature until the solid became a fine suspension, which was then filtered, washed with 500 μl of methanol and dried under high vacuum at 0.2 Torr to obtain 105 mg 2-butyl-1-(p-tolyl)-2H-imidazo[1,5-a]pyridin-4-ium tetraphenylborate (0.18 mmol, a 72% yield) as a white solid.

reactant | n-butylamine | 0.25 mmol, 25 μl, 1 equiv | C(CCC)N | C4H11N
reactant | formalin | 0.37 mmol, 28 μl, 1.5 equiv | C=O | CH2O
reactant | hydrochloric acid | 3.05 M, 82 μl | Cl | ClH
reactant | ethanol | 0.25 mmol, 1 equiv | C(C)O | C2H6O
reactant | pyridin-2-yl(p-tolyl)methanone | 0.25 mmol, 49 mg, 1 equiv | N1=C(C=CC=C1)C(=O)C1=CC=C(C=C1)C | C13H11NO
reactant | sodium tetraphenylborate | 0.27 mmol, 94 mg, 1.1 equiv | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
solvent | acetonitrile | 0.50 mL | C(C)#N | C2H3N
solvent | methanol | 1.0 mL | CO | CH4O
solvent | methanol | 1.0 mL | CO | CH4O
product | 2-butyl-1-(p-tolyl)-2H-imidazo[1,5-a]pyridin-4-ium tetraphenylborate | 105 mg, 72% yield | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C(CCC)N1C=[N+]2C(C=CC=C2)=C1C1=CC=C(C=C1)C | InChI=1S/C24H20B.C18H21N2/c1-5-13-21(14-6-1)25(22-15-7-2-8-16-22,23-17-9-3-10-18-23)24-19-11-4-12-20-24;1-3-4-12-20-14-19-13-6-5-7-17(19)18(20)16-10-8-15(2)9-11-16/h1-20H;5-11,13-14H,3-4,12H2,1-2H3/q-1;+1
